US07407961B2
A mixture of 5-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone (100 mg), dimethylamine hydrochloride (106 mg), N,N-diisopropylethylamine (201 mg) in NMP (1.0 ml) was heated at 150° C. with stirring for 65 hours. After cooling, EtOAc and water were poured into the mixture, and the organic layer was separated, washed with water and brine, and dried over MgSO4. The solvent was removed under reduced pressure. The residue was recrystallized from MeOH-IPE and dried in vacuo to give 5-[5-amino-6-(dimethylamino)-3-phenyl-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone (8 mg).

reactant | 5-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone | 100 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1 | C18H17BrN4O
reactant | dimethylamine hydrochloride | 106 mg | Cl.CNC
reactant | N,N-diisopropylethylamine | 201 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | NMP | 1.0 ml | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | 5-[5-amino-6-(dimethylamino)-3-phenyl-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone | 8 mg | NC=1N=C(C(=NC1N(C)C)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1 | C20H23N5O
